US07601722B2
A solution of 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.1 g) was stirred in an 8 M methylamine-ethanol solution at 22° C. for 16 h. The reaction mixture was concentrated under reduced pressure to provide (2Z)-4-[3-(2-fluoro-4-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylbut-2-en-1-amine hydrochloride (0.12 g) as a white solid:

reactant | 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.1 g | ClC\C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)C)F)(=O)=O | C17H16ClFN2O2S
reactant | methylamine ethanol | 8 M | CN.C(C)O
product | (2Z)-4-[3-(2-fluoro-4-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylbut-2-en-1-amine hydrochloride | 0.12 g | Cl.FC1=C(C=CC(=C1)C)N1S(N(C2=C1C=CC=C2)C\C=C/CNC)(=O)=O | InChI=1S/C18H20FN3O2S.ClH/c1-14-9-10-16(15(19)13-14)22-18-8-4-3-7-17(18)21(25(22,23)24)12-6-5-11-20-2;/h3-10,13,20H,11-12H2,1-2H3;1H/b6-5-;
